US07626037B2
Preparation of rac-4-(2,3-dihydroxy-propoxy)-3-chloro-benzaldehyde
To a solution of 3-chloro-4-hydroxybenzaldehyde (5.0 g, 31.9 mmol) in DMF/THF 1:3 (120 mL) is added NaH (1.67 g of a 55% dispersion in mineral oil, 38.3 mmol) in four portions. The mixture is stirred at rt for 1 h before allylbromide (9.66 g, 79.8 mmol) is added. The reaction mixture is heated to 65° C. for 18 h, diluted with water (250 mL) and extracted with diethyl ether (3×250 mL). The organic extracts are washed with water (250 mL), combined and concentrated. The remaining oil is chromatographed on silic gel with heptane/EA 4:1 to afford 4-allyloxy-3-chlorobenzaldehyde (5.37 g) as an almost colourless oil. LC: tR=0.95 min. The above 4-allyloxy-3-chloro-benzaldehyde (5.37 g, 27.3 mmol) is dissolved in acetone (100 mL) and water (10 mL) and treated with a 2.5% solution of OsO4 in tert.-butanol (1.71 mL, 0.137 mmol OsO4). N-methyl morpholine-N-oxide (3.87 g, 32.8 mmol) is added and the reaction mixture is stirred at rt for 20 h before it is diluted with EA (300 mL) and washed with 10% aq. citric acid solution (200 mL) and water (2×150 mL). The washings are extracted with EA (300 mL) and the combined organic extracts are dried over MgSO4, filtered and concentrated to furnish the title compound (6.02 g) as beige foam which was used in the following steps without further purification. LC: tR=0.67 min.

reactant | 4-allyloxy-3-chloro-benzaldehyde | 27.3 mmol, 5.37 g | C(C=C)OC1=C(C=C(C=O)C=C1)Cl | C10H9ClO2
reactant | water | 10 mL | O | H2O
reactant | N-methyl morpholine-N-oxide | 32.8 mmol, 3.87 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | EA | 300 mL | CC(OCC)=O | C4H8O2
catalyst | OsO4 | O=[Os](=O)(=O)=O
catalyst | tert.-butanol | 0.137 mmol, 1.71 mL | C(C)(C)(C)O | C4H10O
product | rac-4-(2,3-dihydroxy-propoxy)-3-chloro-benzaldehyde | 6.02 g | OC(COC1=C(C=C(C=O)C=C1)Cl)CO | C10H11ClO4
